US06984745B2
Synthesis of Lead (II) Methoxyacetate.
A 500 mL round bottom flask was charged with lead (II) acetate (Alfa 10719, 50.4 g, 0.133 mol) and methoxyacetic acid (209.8 g, 2.3 mol). The contents of the reactor were heated to 100° C. with an external oil bath and the volatile materials were distilled at 100 to 50 torr, head temperature to 65° C. The distillate was identified as a mixture of acetic acid and methoxyacetic acid. The pressure was further reduced and the excess methoxyacetic acid was removed. The title product was isolated as a colorless viscous liquid and diluted in water to give 87.6 grams of product (31% lead). Thermo-gravimetric analysis in air to 800° C. gave 32.5% lead oxide, calculated 32.8%. IR (thin film) 3441, 2943, 2834, 1731, 1585, 1428, 1202, 1114.

reactant | lead (II) acetate | 0.133 mol, 50.4 g | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | methoxyacetic acid | 2.3 mol, 209.8 g | COCC(=O)O | C3H6O3
product | Lead (II) Methoxyacetate | COCC(=O)[O-].[Pb+2].COCC(=O)[O-] | InChI=1S/2C3H6O3.Pb/c2*1-6-2-3(4)5;/h2*2H2,1H3,(H,4,5);/q;;+2/p-2
